US07148215B2
2-Morpholin-4-yl-1-(4-nitrophenyl)ethanone
A stirred solution of 2-bromo-4′-nitroacetophenone (4.0 g) in dry tetrahydrofuran (60 mL) was treated with morpholine (2.84 mL). After stirring at room temperature for a further 30 minutes the reaction mixture was treated with water (100 mL) and ethyl acetate (100 mL). The organic phase was separated, washed with brine (100 mL), then dried over magnesium sulfate and evaporated. The residue was triturated with diethyl ether to give the title compound (2.72 g) as a yellow solid, Rf 0.60 (dichloromethane:methanol:triethylamine, 85:10:5). 1H NMR [(CD3)2SO]: δ 8.32 (d, 2H), 8.20 (d, 2H), 3.90 (s, 2H), 3.58 (t, 4H) and 2.48 (t, 4H).

reactant | 2-bromo-4′-nitroacetophenone | 4.0 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | morpholine | 2.84 mL | N1CCOCC1 | C4H9NO
reactant | water | 100 mL | O | H2O
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-Morpholin-4-yl-1-(4-nitrophenyl)ethanone | 2.72 g | N1(CCOCC1)CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O4
